US05756507
Step 7.1H [4-(4-benzyloxyphenyl)-butyl]-[2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]carbamic acid benzyl ester
To a solution of 3-[2-[4-(4-benzyloxyphenyl)butylamino]ethyl]-2-(3,5-dimethylphenyl)-1H-indol-5-ol (234 mg in 5 mL of dry methylene chloride) at -78° C. was added benzyl chloroformate (0.082 mL) and diisopropylethylamine (0.104 mL) and the mixture stirred at room temperature. After 1 hour the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate. The organic portion was washed with saturated ammonium chloride, dried over magnesium sulfate and concentrated in vacuo. Purification by flash chromatography on silica gel (hexane:ethyl acetate, 3:1 then 2:1) gave the title compound (155 mg).

reactant | 3-[2-[4-(4-benzyloxyphenyl)butylamino]ethyl]-2-(3,5-dimethylphenyl)-1H-indol-5-ol | 5 mL, 234 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCNCCC1=C(NC2=CC=C(C=C12)O)C1=CC(=CC(=C1)C)C | C35H38N2O2
reactant | benzyl chloroformate | 0.082 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diisopropylethylamine | 0.104 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | [4-(4-benzyloxyphenyl)-butyl]-[2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]carbamic acid benzyl ester | 155 mg | C(C1=CC=CC=C1)OC(N(CCC1=C(NC2=CC=C(C=C12)O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C43H44N2O4
